Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
vertical diplopia - report of cavernous
sinus thrombosis 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ with hx of heterozygosity for Factor 5
Leiden HTN, CAD, with prolonged flight 1 month ago here with
progressive binocular vertical diplopia for 1 day. 

Pt reports that starting this AM at an unclear team, he started
realizing that far vision was blurry. This slowly progressed 
over
the day to the point where at 2pm, he had vertical diplopia with
difficulty with near vision. The double vision was clearly
binocular improving with isolation of each eye. He does report
that for the last two weeks, he has had L posterior neck pain
worst in the AM. No recent injury, trauma, or heavy lifting. 

He recently traveled to ___ ___ and the flight back 
from
___ was 10 hrs long during which he did not get up. Aside from
this he has not had any prolonged periods of immobility. 

He presented to ___ with these symptoms. They obtained
CTA H and N and transferred him with reported cavernous sinus
thrombosis. The report is not available to me at this time. 

Just today, he started to have a aching headache not positional. 


On neurologic review of systems, the patient denies
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, vertigo, hearing
difficulty, dysarthria. Denies focal muscle weakness, numbness,
parasthesia. Denies loss of sensation. Denies difficulty with
gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations (when in ___, he had some chest pressure 
requiring
some nitroglycerin).  Denies nausea, vomiting, diarrhea, or
abdominal pain. No dysuria.  Denies arthralgias or myalgias. 

 
Past Medical History:
- CAD s/p MI in ___
- HLD
- HTN
- Reported TIA ___ years ago with - Bilateral leg numbness 
resolved
after 1 minute. 
- DJD in spine
- b/l tingling in b/l hands digits ___ primarily intermittent
over many years.  

 
Social History:
___
Family History:
Brother with Factor 5 ___ who passed away from thrombotic
complications. Grandfather with CAD and MI in ___. 

 
Physical Exam:
Vitals: 97.8F, HR 69, 164/92, RR 16, 99% on RA

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOM appear full with
b/l end gaze nystagmus. Vertical diplopia on primary gaze,
worsened when looking up as well as upwards to the right and to
the left. When his left eye is covered the upper image
disappears. When his right eye is covered the lower image
disappears. There is no clear misalignment/skew on light reflex.
No ptosis. No clear refixation with cover/uncover test with each
eye. However, when doing alternate cover test, there does appear
to be refixation in the vertical plane. VFF to confrontation. 
Red desaturation with right eye compared to left when testing
with red ID. Blurry vision in his right eye when isolated
compared to his left eye. 
There may be blurring of the right optic disc margin on
evaluation of optic discs. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, proprioception throughout.
No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred - no issues with gait before admission. 

=====================================================
DISCHARGE PHYSICAL EXAMINATION: 
Unchanged except:

Vertical diplopia on primary gaze, worsened with midline 
downgaze, improved with midline upgaze. Worse with leftgaze. 
When right eye is covered the lower image disappears. No 
refixation visible with cover/uncover testing. No  
misalignment/skew on light reflex. Equivocal induced ptosis on R 
with 30 sec of upgaze. VFF to confrontation. No red 
desaturation.
 
Pertinent Results:
___ 04:45AM BLOOD WBC-4.9 RBC-4.54* Hgb-15.1 Hct-43.7 
MCV-96 MCH-33.3* MCHC-34.6 RDW-12.9 RDWSD-45.6 Plt ___
___ 07:12PM BLOOD Neuts-47.4 ___ Monos-11.2 Eos-1.3 
Baso-0.5 Im ___ AbsNeut-2.63 AbsLymp-2.18 AbsMono-0.62 
AbsEos-0.07 AbsBaso-0.03
___ 04:45AM BLOOD Plt ___
___ 04:45AM BLOOD Glucose-96 UreaN-13 Creat-0.7 Na-138 
K-3.9 Cl-101 HCO3-26 AnGap-15
___ 04:45AM BLOOD TSH-0.61
___ 04:45AM BLOOD CRP-0.4
___ 01:16PM BLOOD VITAMIN B1-WHOLE BLOOD-PND
___ 01:16PM BLOOD ACETYLCHOLINE RECEPTOR MODULATING 
ANTIBODY-PND
___ 01:16PM BLOOD ACETYLCHOLINE RECEPTOR ANTIBODY-PND
___ 01:16PM BLOOD MUSK ANTIBODY-PND
___ 01:39PM BLOOD SED RATE-PND

Imaging:
MRI brain ___: 1. On nondedicated examination, no evidence 
for cavernous sinus thrombosis as described above. 
2. Unremarkable MRV. 
3. No acute intracranial hemorrhage or infarct. 

 
Brief Hospital Course:
Mr. ___ was transferred to ___ and admitted to the stroke 
service due to OSH report of c/f cavernous sinus thrombosis on 
CTA in the setting of his heterozygosity for Factor V Leiden.  
On arrival he was started on heparin gtt. MRI/MRA/MRV obtained, 
which showed no evidence of cavernous sinus thrombosis. Heparin 
gtt was therefore stopped. 
On examination ___, his exam was noted to have changed from 
the night prior and also changed between different exams that 
day, with changes in which direction the diploipa was worse, and 
at which distance it was worse. Patient reported fluctuation in 
his symptoms. This raised concern for ocular myasthenia ___ 
and serologies were sent for ACh receptor Ab and MUSK Ab. 
Additionally he was scheduled for outpatient single fiber EMG 
and Neurology and Neuro-Ophthalmology follow-up. 

Given concomitant heavy EtOH use, he was treated with thiamine 
500mg x1 then 100mg daily and folic acid 1mg daily, and 
discharged on these medications. He showed no signs of 
withdrawal during his brief hospitalization. 

=================================
Transitional Issues: 
[ ] follow up serologies
[ ] follow up single fiber EMG
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 25 mg PO DAILY 
2. Aspirin 325 mg PO DAILY 
3. Multivitamins W/minerals 1 TAB PO DAILY 
4. Glucosamine (glucosamine sulfate) 500 mg oral DAILY 
5. Atorvastatin 40 mg PO QPM 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*2 
2.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*2 
3.  Aspirin 325 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  Glucosamine (glucosamine sulfate) 500 mg oral DAILY  
6.  Losartan Potassium 25 mg PO DAILY  
7.  Multivitamins W/minerals 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
binocular diplopia. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 
You were admitted to evaluate double vision which you began to 
experience. We were initially worried about the possibility of a 
blood clot in the cavernous sinus, but we did an MRI and it 
showed no evidence of this. You were briefly on a blood thinner 
called heparin until we had this result. 
  We think that you may have a problem with the signal 
connection between the nerves and muscles called myasthenia 
___. We sent some tests for this, but they will not come back 
for about a week. We would also like you to get some additional 
specialized testing of the muscles around the eyes. 

 
Followup Instructions:
___